US04016148
24.2 g (0.24 mol) of triethylamine were added to 53.5 g (0.24 mol) of N-benzyloxycarbonyl-L-alanine in 2 liters of dry toluene and the mixture was cooled to -5° C. 32.8 g (0.24 mol) of isobutyl chloroformate were added dropwise while stirring and the mixture was maintained at -5° C for a further 25 minutes. While stirring this mixture at -5° C, there was added dropwise a solution of 6.66 g (0.060 mol) of aminomethylphosphonic acid in 60 ml of 2-N sodium hydroxide and the stirring continued for a further 3 hours at -5° C. The mixture was then allowed to warm to room temperature and stirred overnight. The aqueous layer was separated, back-extracted with toluene and adjusted to pH 9.5 with 45 ml of 2-N sodium hydroxide. The solution was evaporated at room temperature to remove triethylamine. The residue was dissolved in 200 ml of water three times and re-evaporated each time. The final residue was dissolved in 500 ml of water and the resulting solution extracted three times with 350 ml portions of chloroform. The aqueous layer was adjusted to pH 2.5 with 50 ml of 2-N hydrochloric acid and then extracted successively with three 350 ml portions of ether and three 350 ml portions of chloroform. The aqueous layer was evaporated at room temperature and the resulting white solid dissolved in 50 ml of water and 20 ml of 2-N ammonium hydroxide and then passed down a column of cation exchange resin (B.D.H., Zerolit 225, SRC 13, RSO3H; 250 g; freshly regenerated in the acid cycle). The column was eluted with water and the acid eluate evaporated. The residue was evaporated at room temperature three times with 100 ml of water each time to remove hydrogen chloride. There was obtained a final residue of [(N-benzyloxycarbonyl-L-alanyl)amino]-methylphosphonic acid, which was converted to its benzylamine salt as follows:

reactant | triethylamine | 0.24 mol, 24.2 g | C(C)N(CC)CC | C6H15N
reactant | N-benzyloxycarbonyl-L-alanine | 0.24 mol, 53.5 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | isobutyl chloroformate | 0.24 mol, 32.8 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | aminomethylphosphonic acid | 0.060 mol, 6.66 g | NCP(O)(O)=O | CH6NO3P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 2 liters | C1(=CC=CC=C1)C | C7H8
product | [(N-benzyloxycarbonyl-L-alanyl)amino]-methylphosphonic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)NOP(O)(=O)C | C12H17N2O6P
